US07235537B2
6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid (2,3-dihydroxy-propoxy)-amide (29hhh)
To a solution of 6-(4-bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid allyloxy-amide 29tt (20 mg, 0.04 mmol) in 0.50 mL 4:1 tetrahydrofuran/water is added OsO4 (41 μL, 0.054 M solution in t-BuOH, 0.002 mmol) followed by NMO (7 mg, 0.06 mmol). The solution is stirred at room temperature for eight hours after which time HPLC analysis showed complete conversion to product. The solution is then stirred with saturated NaHSO3 and diluted with ethyl acetate. The organic phase is dried (Na2SO4). Purification by FCC (DCM->20:1 DCM/MeOH) provided 16 mg desired product as an off-white solid. MS ESI (+) m/z 487, 489 (M+, Br pattern) detected.

reactant | 6-(4-bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid allyloxy-amide | C(C=C)ONC(=O)C1=CC2=C(N=CN2C)C(=C1NC1=C(C=C(C=C1)Br)Cl)F | C18H15BrClFN4O2
reactant | tetrahydrofuran water | O1CCCC1.O
reactant | NMO | 0.06 mmol, 7 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | NaHSO3 | OS(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | OsO4 | 0.002 mmol, 0.054 M, 41 μL | O=[Os](=O)(=O)=O
product | 6-(4-Bromo-2-chloro-phenylamino)-7-fluoro-3-methyl-3H-benzoimidazole-5-carboxylic acid (2,3-dihydroxy-propoxy)-amide | 16 mg | OC(CONC(=O)C1=CC2=C(N=CN2C)C(=C1NC1=C(C=C(C=C1)Br)Cl)F)CO | C18H17BrClFN4O4
